US06900222B1
A mixture of (S)-1-(phenylmethyl)-3-pyrrolidinamine, (0.115 mol) and 2-propenenitrile (0.115 mol) in ethanol (250 ml) was stirred and refluxed for 2 hours. 2-Propenenitrile (1 g) was added and the reaction mixture was stirred and refluxed for another 2 hours. The solvent was evaporated, yielding 27.0 g of (S)-3-[[1-(phenyl-methyl)-3-pyrrolidinyl]amino]propanenitrile (interm. 5).

reactant | (S)-1-(phenylmethyl)-3-pyrrolidinamine | 0.115 mol | C1(=CC=CC=C1)CN1C[C@H](CC1)N | C11H16N2
reactant | 2-propenenitrile | 0.115 mol | C(C=C)#N | C3H3N
reactant | 2-Propenenitrile | 1 g | C(C=C)#N | C3H3N
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | (S)-3-[[1-(phenyl-methyl)-3-pyrrolidinyl]amino]propanenitrile | 27.0 g | C1(=CC=CC=C1)CN1C[C@H](CC1)NCCC#N | C14H19N3
